US20010016659A1
A slurry of 4-(3-carboxyphenoxy)-1-nitrobenzene (5.38 g, 20.7 mmol) and 10% Pd/C (0.50 g) in MeOH (120 mL) was stirred under an H2 atmosphere (balloon) for 2 d. The resulting mixture was filtered through a pad of Celite®, then concentrated under reduced pressure to afford 4-(3-carboxyphenoxy)aniline as a brown solid (2.26 g, 48%): TLC (10% MeOH/90% CH2Cl2) Rf 0.44 (streaking).

reactant | 4-(3-carboxyphenoxy)-1-nitrobenzene | 20.7 mmol, 5.38 g | C(=O)(O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C13H9NO5
solvent | MeOH | 120 mL | CO | CH4O
catalyst | Pd/C | 0.50 g | [Pd] | Pd
product | 4-(3-carboxyphenoxy)aniline | 2.26 g, 48% | C(=O)(O)C=1C=C(OC2=CC=C(N)C=C2)C=CC1 | C13H11NO3
